US07842696B2
DIPEA (77.35 mg, 0.60 mmol) was added to a stirred solution of biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (70 mg, 0.16 mmol) in DMF (2 mL). HOBT (19.8 mg, 0.14 mmol) and EDCI.HCl (63.74 mg, 0.33 mmol) were then added. After 2 minutes benzoic acid (16.35 mg, 0.13 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water and the product was precipitated and filtered to afford 40 mg (67.2% yield) of biphenyl-4-carboxylicacid {2-[4-benzoyl-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 92.6%, 1H NMR Values: (CDCl3) δ 7.9 (d, 2H), 7.7 (d, 2H), 7.6 (d, 2H), 7.5-7.4 (m, 8H), 7.3 (s, 1H), 4.4 (s, 2H), 3.8 (s, 4H), 3.6 (s, 4H).

reactant | DIPEA | 0.60 mmol, 77.35 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.16 mmol, 70 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.14 mmol, 19.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.33 mmol, 63.74 mg | CCN=C=NCCCN(C)C.Cl
reactant | benzoic acid | 0.13 mmol, 16.35 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-benzoyl-piperazin-1-yl]-2-oxo-ethyl}-amide | 40 mg, 67.2% yield | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H25N3O3
